### PR TITLE
adapt to MC#1256

### PR DESCRIPTION
**Pull request by Tragicus**
https://github.com/math-comp/math-comp/pull/1256 changes the behavior of rewrite (seemingly because it generalizes some operations). This PR makes the necessary changes to keep compiling.

~~The CI is supposed to fail because we need https://github.com/math-comp/algebra-tactics/pull/100 first.~~

### CODE REVIEW

**Comment by Tragicus** [comment]
Actually, if there is a way to reduce `GRing_Nmodule__to__GRing_AddMagma ssrint_int__canonical__GRing_Nmodule` to `ssrint_int__canonical__GRing_AddMagma` without mentioning `addMagmaType` and with a code that works on the current version of MC (i.e. when there is nothing to unfold), we may make the CI happy.

File: theories/algo_closures.v [hunk 1]
```diff
@@ -46,9 +46,11 @@ Lemma d_Sn : annotated_recs_d.Sn d.
 Proof.
 rewrite /annotated_recs_d.Sn /annotated_recs_d.precond.Sn /d => n k m ?.
 rewrite addrAC !binSz /annotated_recs_d.Sn_cf0_0_0; [ | lia ..].
+field.
 have b1_pos: 0 < binomialz n m by apply: bin_nonneg; lia.
-have b2_pos: 0 < binomialz (n + m) m by apply: bin_nonneg; lia.
-by field; ring_lia.
+have ->: (binomialz (n + m) m)%:~R != 0 :> rat.
+  by rewrite intq_eq0; apply/Num.Theory.lt0r_neq0/bin_nonneg; lia.
+by ring_lia.
```
Comment (pi8027) [inline theories/algo_closures.v:53]: Can you describe why you need this change? Is `ring_lia` not working as before?

Comment (Tragicus) [reply theories/algo_closures.v:53]: This is the same issue as for `ring`, which is that the tactic uses term equality instead of (keyed) unification to lookup its table of abstracted terms.

Comment (pi8027) [reply theories/algo_closures.v:53]: You mean, the same issue in the `lia` tactic?

Comment (Tragicus) [reply theories/algo_closures.v:53]: No, the thing I solved in https://github.com/math-comp/algebra-tactics/pull/109. There are two occurences of `(binomialz (n + m) m)%:~R` and one of them has coercions, which make `ring_lia` fail to see that they are in fact the same term.

**Review by pi8027 — APPROVED** [review]
LGTM

File: theories/algo_closures.v [hunk 2]
```diff
@@ -47,8 +47,10 @@ Proof.
 rewrite /annotated_recs_d.Sn /annotated_recs_d.precond.Sn /d => n k m ?.
 rewrite addrAC !binSz /annotated_recs_d.Sn_cf0_0_0; [ | lia ..].
 have b1_pos: 0 < binomialz n m by apply: bin_nonneg; lia.
-have b2_pos: 0 < binomialz (n + m) m by apply: bin_nonneg; lia.
-by field; ring_lia.
+(* FIXME: get rid of this `set b` (lia should compare variables by (keyed) unification instead of term equality). *)
+set b := binomialz (n + m) _.
+have b2_pos: 0 < b by apply: bin_nonneg; lia.
+field; ring_lia.
```
Comment (pi8027) [inline theories/algo_closures.v:53]:
```suggestion
by field; ring_lia.
```

File: theories/algo_closures.v [hunk 3]
```diff
@@ -64,8 +66,10 @@ rewrite /annotated_recs_d.Sm /annotated_recs_d.precond.Sm /d => n k m ?.
 rewrite int.zshiftP !alt_sign addrA !(binzS, binSz); [ | lia ..].
 rewrite /annotated_recs_d.Sm_cf0_0_0.
 have b1_pos: 0 < binomialz n m by apply: bin_nonneg; lia.
-have b2_pos: 0 < binomialz (n + m) m by apply: bin_nonneg; lia.
-by field; ring_lia.
+(* FIXME: get rid of this `set b` (lia should compare variables by (keyed) unification instead of term equality). *)
+set b := binomialz (n + m) _.
+have b2_pos: 0 < b by apply: bin_nonneg; lia.
+field; ring_lia.
```
Comment (pi8027) [inline theories/algo_closures.v:72]:
```suggestion
by field; ring_lia.
```

**Comment by pi8027** [comment]
Re-running `mathcomp/mathcomp-dev:coq-8.18` just in case since it took 28 minutes.

**Comment by pi8027** [comment]
Thanks!
